US08217570B2
1,4-Dibromobenzene 2.64 g (11.2 mmol) was dissolved in 30 mL of dried tetrahydrofuran and cooled down to −70° C. A hexane solution (1.6M) 7.4 mL (11.8 mmol) was dropwise added slowly to the above solution and stirred at −70° C. for 30 minutes. A tetrahydrofuran solution of 2-chloro-4,6-diphenyl-1,3,5-triazine 3.00 g (11.2 mmol) was dropwise added to the above mixture at −70° and stirred at −70° C. for 30 minutes, and then the solution was heated slowly up to room temperature and stirred further for 1.5 hour. The mixture thus obtained was extracted with ethyl acetate, and the organic layer was washed in order with water and a saturated saline solution and dried on anhydrous magnesium sulfate. Then, the solvent was removed by distillation, and the residue was refined by silica gel chromatography to thereby obtain 1.48 g (yield: 34%) of 2-(4-bromophenyl)-4,6-diphenyl-1,3,5-triazine.

reactant | 1,4-Dibromobenzene | 11.2 mmol, 2.64 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | hexane | 11.8 mmol, 1.6M, 7.4 mL | CCCCCC | C6H14
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 11.2 mmol, 3.00 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(4-bromophenyl)-4,6-diphenyl-1,3,5-triazine | 1.48 g, yield: 34% | BrC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H14BrN3
